US08865726B2
To (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one (0.090 g, 0.16 mmol) was added TFA (10 mL) and the reaction was stirred at ambient temperature for 2 hours. The reaction was concentrated in vacuo and the resulting material dissolved in MeOH/CH3CN/water (1:1:1, 30 mL total) and stirred for 20 minutes at ambient temperature. The mixture was basified by adding NaHCO3 (saturated aqueous solution) and the solid that formed was isolated by filtration. The solids were slurried in CH3CN/MeOH/water (1:1:5, 40 mL total) and the material filtered and dried in vacuo to yield (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one (0.054 g, 77.1%). LCMS (APCI+) m/z 443 [M+H]+.

reactant | (S)-3-(3-(3-fluoro-4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one | 0.16 mmol, 0.090 g | FC=1C=C(C=CC1C1=NN(C=N1)COCC[Si](C)(C)C)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=CC=C2)=O | C28H29FN8O3Si
reactant | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH3CN MeOH water | 40 mL | CC#N.CO.O
product | (S)-3-(3-(3-fluoro-4-(1H-1,2,4-triazol-3-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl)-4-(pyridin-2-yl)oxazolidin-2-one | 0.054 g, 77.1% | FC=1C=C(C=CC1C1=NNC=N1)C=1C=NN2C1N=C(C=C2)N2C(OC[C@@H]2C2=NC=CC=C2)=O | C22H15FN8O2
